US07553969B1
(2) Synthesis of Z-N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me
To a solution of the crude N-Me-Tyr(3-t-Bu)-NHSO2Me (0.51 g, 1.43 mmol), Z-N-Me-Val-OH 0.49 g, 1.86 mmol) and CMPI (0.51 g, 2.00 mmol) in THF (10 ml), TEA (0.60 ml, 4.29 mmol) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water, rendered acidic by the addition of 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=2:3 containing 0.5% acetic acid) to give the titled compound (0.70 g, in 2 steps, 85%).

reactant | N-Me-Tyr(3-t-Bu)-NHSO2Me | 1.43 mmol, 0.51 g | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NS(=O)(=O)C)C | C15H24N2O4S
reactant | Z-N-Me-Val-OH | 1.86 mmol, 0.49 g | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)C | C14H19NO4
reactant | water | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Z-N-Me-Val-N-Me-Tyr(3-t-Bu)-NHSO2Me | 0.70 g, 85% | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NS(=O)(=O)C)C)C | C29H41N3O7S
